US07368453B2
Synthesis of Cis-2,6-Dimethyl-Piperazin-1-ol Hydrochloride
Cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester (3.00 g; prepared according to the method E. Jon Jacobson et. al.: J. Med. Chemistry. 1999, Vol. 42, 1123-144) in 47 mL chloroform was treated with methylvinylketone (1.7 mL) at room temperature and heated at reflux for two days. The reaction was then concentrated, diluted with THF and heated at reflux for 1 day before purifying by column chromatography (0 to 10% MeOH/DCM) to afford 0.865 g of the title compound as a clear, colorless oil. 1H NMR (CDCl3, 300 MHz) δ ppm 1.08 (d, 2H, J=6.07 Hz), 1.47 (s, 9H), 2.17 (s, 3H), 2.52 (m, 6H), 3.10 (m, 2H), 2.86 (bs, 2H); 13C NMR (CDCl3, 75 MHz) 17.6 (2C), 28.62 (5C), 30.8, 37.34, 42.46, 53.57 (4C), 79.85, 154.49, 208.29.

reactant | Cis-3,5-dimethylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C11H22N2O2
reactant | methylvinylketone | 1.7 mL | CC(=O)C=C | C4H6O
reactant | chloroform | 47 mL | C(Cl)(Cl)Cl | CHCl3
product | Cis-2,6-Dimethyl-Piperazin-1-ol Hydrochloride | 0.865 g | Cl.C[C@@H]1N([C@@H](CNC1)C)O | InChI=1S/C6H14N2O.ClH/c1-5-3-7-4-6(2)8(5)9;/h5-7,9H,3-4H2,1-2H3;1H/t5-,6+;
